US07863454B2
Cyclopentyl magnesium chloride solution (2 M in THF, 2 mL, 4 mmol) is slowly added to a solution of 6-(2,6-diethyl-phenyl)-4-ethoxy-nicotinic acid ethyl ester (prepared by a route analogous to that given in Example 2) (163 mg, 0.5 mmol) in ether (5 mL) at 0° C. The mixture is stirred at room temperature for 30 minutes. Saturated ammonium chloride solution (2 mL) is added and the organic solution is separated. The organic layer is separated and dried over anhydrous Na2SO4. The solvents are removed in vacuo and the crude is purified with PTLC (hexanes/EtOAc 3:1) to give cyclopentyl-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-methanol. 1H NMR: (CDCl3) 8.44 (s, 1H), 7.28 (t, 1H), 7.12 (d, 2H), 6.74 (S, 1H), 4.61 (t, 1H), 4.06 (q, 2H), 2.29 (m, 4H), 1.92 (m, 1H), 1.47 (m, 10H), 1.21 (m, 1H), 1.02 (m, 6H).

reactant | Cyclopentyl magnesium chloride | 4 mmol, 2 M, 2 mL | C1(CCCC1)[Mg]Cl
reactant | 6-(2,6-diethyl-phenyl)-4-ethoxy-nicotinic acid ethyl ester | C(C)OC(C1=CN=C(C=C1OCC)C1=C(C=CC=C1CC)CC)=O | C20H25NO3
reactant | ammonium chloride | 2 mL | [Cl-].[NH4+]
solvent | ether | 5 mL | CCOCC | C4H10O
product | cyclopentyl-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-methanol | C1(CCCC1)C(O)C=1C=NC(=CC1OCC)C1=C(C=CC=C1CC)CC | C23H31NO2
